US07842713B2
Preparation of Intermediate 201a: 4-(4-Methanesulfonyl-phenoxy)-2-methoxymethyl-2,3-dihydro-benzofuran-6-carboxylic acid tert-butyl ester
NaH (50 mg, 60% in mineral oil, 1.3 mmol) was added to a solution of 2-hydroxymethyl-4-(4-methanesulfonyl-phenoxy)-2,3-dihydro-benzofuran-6-carboxylic acid tert-butyl ester (200 g) (409 mg, 0.97 mmol) in THF (5 mL). The resulting mixture was stirred at 0° C. for 10 min and then methyl iodide (80 uL, 1.3 mmol) was added. The mixture was stirred at room temperature for 2 hr and then quenched with H2O (20 mL), extracted with EtOAc (2×20 mL). The organic layers were dried over MgSO4 and concentrated. The residue was purified by flash column chromatograph eluting with 20-30% EtOAc in hexanes to give a colorless oil (295 mg, 70% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ 1.56 (s, 9 H) 2.89 (dd, J=16.55, 7.20 Hz, 1 H) 3.07 (s, 3 H) 3.08-3.17 (m, 1 H) 3.39-3.44 (m, 3 H) 3.58 (d, J=5.05 Hz, 2 H) 4.99-5.08 (m, 1 H) 7.04-7.10 (m, 2 H) 7.21 (d, J=1.01 Hz, 1 H) 7.30 (d, J=1.26 Hz, 1 H) 7.86-7.93 (m, 2 H); LCMS for C22H26O7S m/z 457.00 (M+Na)+.

reactant | NaH | 1.3 mmol, 50 mg | [H-].[Na+]
reactant | 2-hydroxymethyl-4-(4-methanesulfonyl-phenoxy)-2,3-dihydro-benzofuran-6-carboxylic acid tert-butyl ester | 0.97 mmol, 200 g | C(C)(C)(C)OC(=O)C1=CC2=C(CC(O2)CO)C(=C1)OC1=CC=C(C=C1)S(=O)(=O)C | C21H24O7S
reactant | methyl iodide | 1.3 mmol, 80 uL | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(4-Methanesulfonyl-phenoxy)-2-methoxymethyl-2,3-dihydro-benzofuran-6-carboxylic acid tert-butyl ester | 295 mg, 70% yield | C(C)(C)(C)OC(=O)C1=CC2=C(CC(O2)COC)C(=C1)OC1=CC=C(C=C1)S(=O)(=O)C | C22H26O7S
